US04780452
After a crystal of iodine was added to an intimate mixture of 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose (5.2 g, 16 mMol) and 7-anilino-5-chloro-3H-imidazo[4,5-b]pyridine (4.0 g, 16 mMol), the mixture was heated in vacuo at 155° C. After 2 hours, the cooled reaction mixture was suspended in methanol and filtered to remove the unreacted heterocycle (2.29 g). The filtrate was taken to dryness in vacuo and treated with an excess of methanol previously saturated with ammonia. Purification by flash chromatography on silica gel (the residue was adsorbed onto silica gel and placed on the top of the column), elution with chloroform/methanol (20:1 v/v), and removal of the solvent gave 1.22 g (3.2 mMol) of 7-anilino-5-chloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine; yield 46.8%; m.p. 157°-160° C. UV max (nm) at pH 1, 307 (ε15,700); pH 13, 250 sh (ε9,900), 300 ε19,400); NMR (DMSO-d6): 9.42 d (s, 1H, NH); 8.50 (s, 1H, H2); 7.43-7.12 (m, 5H, Phenyl); 6.71 (s, 1H, H5); 5.93 (d, 1H, J=5.97 Hz, H1').

reactant | iodine | II | I2
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | 16 mMol, 5.2 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | 7-anilino-5-chloro-3H-imidazo[4,5-b]pyridine | 16 mMol, 4.0 g | N(C1=CC=CC=C1)C1=C2C(=NC(=C1)Cl)NC=N2 | C12H9ClN4
solvent | methanol | CO | CH4O
product | 7-anilino-5-chloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine | 3.2 mMol, 1.22 g, yield 46.8% | N(C1=CC=CC=C1)C1=C2C(=NC(=C1)Cl)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C17H17ClN4O4
